Name:  ___           Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Allergies/ADRs on File
 
Attending: ___.
 
Chief Complaint:
acute LoC
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
Patient was reportedly out with a friend today, had gone to see 
a
movie and then drove to go out to dinner with her friend. While
they were eating, she said she suddenly had extreme pain at the
back of her head. She then slumped over and lost consciousness.
EMS was called, and patient was brought to ___ ED where a CT
scan showed a large IVH. 
 
Past Medical History:
breast cancer in remission;
hypertension;
hyperlipidemia
 
Social History:
___
Family History:
unable to obtain
 
Physical Exam:
PE (admit):
General: intubated, off sedation ~30 minutes

Neuro:
MS: does not open eyes spontaneous, does not follow commands,
does not track or regard.

CN: does not blink to threat. Corneals intact bilaterally, right
pupil sluggishly reactive 2-->1.5mm, left pupil nonreactive both
pupils post surgical, Dolls intact, + gag + cough

Motor: extends bilateral upper extremities to noxious. 
TF bilateral lower extremities to noxious. 

Reflexes: mute toes bilaterally. 

PE (at death):
Exam notable for absent
breath sounds, no pulse, absent heart sounds. Pupils
not-reactive.
 
Pertinent Results:
___ 08:07PM BLOOD WBC-8.6 RBC-4.44 Hgb-12.2 Hct-39.5 MCV-89 
MCH-27.5 MCHC-30.9* RDW-14.9 RDWSD-48.2* Plt ___
___ 08:07PM BLOOD ___ PTT-23.1* ___
___ 08:07PM BLOOD Glucose-147* UreaN-12 Creat-0.6 Na-139 
K-3.6 Cl-102 HCO3-23 AnGap-14
 
Brief Hospital Course:
Spoke with patient's daughter ___ and ___ at bedside with
neurosurgical team. Neurosurgery recommended against EVD, as it
would not be likely to improve her outcome. Discussed with
___ son and daughter that we have no medications to fix the
bleeding in the brain. Our options are to support her medically
as we face the impending sequalae of a large intraventricular
hemorrhage, the most devastating of which is hydrocephalus 
(which
was already noted to be developing on the CT scan). Our other
option is to make ___ comfortable, and forego invasive
measures in an effort to prolong life, and instead focus on
making her as comfortable as possible. Her son and daughter said
that ___ has spent quite a bit of time focusing on end of 
life
issues for others; she cared for her husband in the end of his
life, and she also worked in an Alzheimer's support group 
helping
people cope with end of life issues. Her children know that she
would not want to live a life that she could not be at least
mentally fully functional. Her ICH score was a 4, meaning that
she has a very high 30 day mortality risk (~97%). Given her poor
prognosis, they opted to pursue comfort measures only, which
seems appropriate given her high baseline functional status, her
goal of a high quality of life, and minimizing suffering.
 
Medications on Admission:
-      albuterol (VENTOLIN HFA) 90 mcg/actuation inhaler
•atorvastatin (LIPITOR) 40 MG tablet
•azithromycin (ZITHROMAX) 250 MG tablet
•cetirizine (ZYRTEC) 10 MG tablet
•cholecalciferol (VITAMIN D3) 2,000 unit tablet
•cyclobenzaprine (FLEXERIL) 10 MG tablet
•diazePAM (VALIUM) 5 MG tablet
•diclofenac sodium (VOLTAREN) 75 MG EC tablet
•fluocinonide 0.05 % ointment
•fluticasone propionate (FLONASE) 50 mcg/actuation nasal spray
•fluticasone-salmeterol (ADVAIR DISKUS) 500-50 mcg/dose DISKUS
•gabapentin (NEURONTIN) 600 MG tablet
•hydroCHLOROthiazide (HYDRODIURIL) 25 MG tablet
•irbesartan (AVAPRO) 300 MG tablet
•ketorolac (ACULAR) 0.5 % ophthalmic solution
•Medication-Free Text
•metoprolol succinate (TOPROL-XL) 100 MG 24 hr tablet
•ondansetron (ZOFRAN-ODT) 4 MG disintegrating tablet
•prednisoLONE acetate (PRED FORTE) 1 % ophthalmic suspension
•scopolamine (TRANSDERM-SCOP) 1 mg over 3 days
 
Discharge Medications:
N/A
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
acute respiratory failure
 
Discharge Condition:
expired
 
Discharge Instructions:
N/A
 
Followup Instructions:
___